US09447091B2
4-Fluoro-3-nitrobenzaldehyde
Nitration mixture (sulfuric acid 40 ml+nitric acid 5.5 ml) was added dropwise to 4-fluorobenzaldehyde (10 g, 80.57 mmol) at 0° C. and the mixture was stirred at 5° C. for 20 min and at RT for 1 h. The mixture was quenched by the addition of crushed ice. The precipitate formed was filtered and was washed repeatedly with water to give white solid. The solid was dried under vacuum to give the product in 77% yield (10.5 g). 1H NMR (300 MHz, CDCl3): δ 10.04 (s, 1H), 8.58 (dd, 1H), 8.22-8.18 (m, 1H), 7.5 (t, 1H).

reactant | nitric acid | 5.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-fluorobenzaldehyde | 80.57 mmol, 10 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Fluoro-3-nitrobenzaldehyde | 77% yield | FC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
